US04137253
750 g (6 mols + 25%) of phosgene and 2 liters of dry, ethanol-free methylene chloride were placed in a 10 liter reactor, cooled to -30° C. A solution of 6 mols (780 g) of hydroxyethyl methacrylate and 6 mols (480 g) of pyridine in 1 liter of methylene chloride was added to this mixture over a period of 1 hour 30 minutes, the temperature being kept at between -10° and -15° C. After two hours of stirring at -10° C., the excess phosgene was removed by degassing with nitrogen. After removing the pyridine hydrochloride by filtration, the solution was rapidly washed with 2 liters of ice-cold water. The organic phase was decanted, dried over magnesium sulphate and concentrated under reduced pressure; 1,040 g of ethyl methacrylate chloroformate were thus obtained in a yield of 90%.

reactant | phosgene | 6 mols, 750 g | C(=O)(Cl)Cl | CCl2O
reactant | ethanol | C(C)O | C2H6O
reactant | hydroxyethyl methacrylate | 6 mols, 780 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | pyridine | 6 mols, 480 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | ethyl methacrylate chloroformate | 1,040 g, yield of 90% | ClC(=O)O.C(C(=C)C)(=O)OCC | InChI=1S/C6H10O2.CHClO2/c1-4-8-6(7)5(2)3;2-1(3)4/h2,4H2,1,3H3;(H,3,4)
